US07713994B2
Following the acetylation and desilylation procedure employed for the preparation of N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]benzamide, (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione (65 mg, 0.11 mmol) is reacted with isobutyryl chloride (38 μL, 0.33 mmol). Following desilylation and precipitation, N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]-2-methylpropanamide is obtained (31 mg, 56%).

reactant | N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]benzamide | OC1=C(C=CC(=C1)CN\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)NC(C1=CC=CC=C1)=O | C24H18IN3O4
reactant | (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione | 0.11 mmol, 65 mg | NC1=C(C=C(CN\C=C\2/C(NC(C3=CC=C(C=C23)I)=O)=O)C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H34IN3O3Si
reactant | isobutyryl chloride | 0.33 mmol, 38 μL | C(C(C)C)(=O)Cl | C4H7ClO
product | N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]-2-methylpropanamide | OC1=C(C=CC(=C1)CN\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)NC(C(C)C)=O | C21H20IN3O4
